US04005217
1-Methoxycarbonyl-3-(4n-butyl-2-nitrophenyl)-thiourea (69.0 g; 0.22 mole) and ferrous chloride tetrahydrate (9.2 g) were finely powdered together and suspended in a mixture of methanol (350 ml) and water (70 ml). The vigorously stirred suspension was then heated to reflux and reduced iron powder (42.0 g; 0.78 mole) was added in portions during forty-five minutes. When the addition was complete, the reaction mixture was refluxed for a further thirty minutes and filtered. On cooling a crystalline solid separated from the filtrate. The dark brown filter cake was extracted with boiling methanol (3 × 200 ml) and the combined methanol extracts were evaporated to dryness to give a solid residue. This was combined with the solid obtained from the cold filtrate and the combined solids were crystallised from methanol to give 1-methoxycarbonyl-3-(2-amino-4-n-butylphenyl)thiourea (51.0 g), m.p. 157°-159° C. (with decomposition).

reactant | 1-Methoxycarbonyl-3-(4n-butyl-2-nitrophenyl)-thiourea | 0.22 mole, 69.0 g | COC(=O)NC(=S)NC1=C(C=C(C=C1)CCCC)[N+](=O)[O-] | C13H17N3O4S
solvent | methanol | 350 ml | CO | CH4O
solvent | water | 70 ml | O | H2O
product | 1-methoxycarbonyl-3-(2-amino-4-n-butylphenyl)thiourea | 51.0 g | COC(=O)NC(=S)NC1=C(C=C(C=C1)CCCC)N | C13H19N3O2S
